US09212187B2
Synthesis of 2-[2-({3-[4-(2-oxopyrrolidin-1-yl)phenoxy]propyl}pyridin-4-ylmethylamino)ethyl]-2H-isoquinolin-1-one dihydrochloride
2-(2-{[3-(4-Bromophenoxy)propyl]pyridin-4-ylmethylamino}ethyl)-2H-isoquinolin-1-one(500 mg), 2-pyrrolidone(0.228 ml), potassium carbonate(415 mg), copper iodide (I) (190 mg), and N,N′-dimethyl ethylenediamine(0.39 ml) were added to toluene(5 ml). The mixture was stirred at 100° C. for 12 hours under nitrogen atmosphere. The reaction mixture was cooled to room temperature. After adding aqueous ammonia, extraction was performed using ethyl acetate. The organic layer was washed with saturated saline, and dried with sodium sulfate. After the organic layer was condensed under reduced pressure, the residue was purified by silica gel column chromatography (ethyl acetate: methanol=100:0→70:30). The purified product was condensed under reduced pressure. A condensed hydrochloric acid(0.3 ml) was added to an ethanol solution of the residue, followed by condensation under reduced pressure. The residue was recrystallized from isopropyl alcohol/water to give the title compound(350 mg) as a white powder.

reactant | 2-(2-{[3-(4-Bromophenoxy)propyl]pyridin-4-ylmethylamino}ethyl)-2H-isoquinolin-1-one | 500 mg | BrC1=CC=C(OCCCN(CCN2C(C3=CC=CC=C3C=C2)=O)CC2=CC=NC=C2)C=C1 | C26H26BrN3O2
reactant | 2-pyrrolidone | 0.228 ml | N1C(CCC1)=O | C4H7NO
reactant | potassium carbonate | 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N′-dimethyl ethylenediamine | 0.39 ml | CNCCNC | C4H12N2
reactant | hydrochloric acid | 0.3 ml | Cl | ClH
catalyst | copper iodide | 190 mg | [Cu](I)I
solvent | ethanol | C(C)O | C2H6O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[2-({3-[4-(2-oxopyrrolidin-1-yl)phenoxy]propyl}pyridin-4-ylmethylamino)ethyl]-2H-isoquinolin-1-one dihydrochloride | 350 mg | Cl.Cl.O=C1N(CCC1)C1=CC=C(OCCCN(CCN2C(C3=CC=CC=C3C=C2)=O)CC2=CC=NC=C2)C=C1 | InChI=1S/C30H32N4O3.2ClH/c35-29-7-3-18-34(29)26-8-10-27(11-9-26)37-22-4-17-32(23-24-12-15-31-16-13-24)20-21-33-19-14-25-5-1-2-6-28(25)30(33)36;;/h1-2,5-6,8-16,19H,3-4,7,17-18,20-23H2;2*1H
